US04115575
22 g (0.2 mol) of thiophenol and 29.8 g (0.2 mol) of 2,3-dichloropyrazine are successively added dropwise to a solution of 10.8 g (0.2 mol) of sodium methylate in 200 ml of ethanol and the mixture is stirred for 1 hour. The reaction mixture is then cooled to 0° C. and the reaction product which has precipitated is filtered off and washed with ethanol and water. After drying, 2-chloro-3-phenylthiopyrazine, melting point 100°-111° C., is obtained.

reactant | thiophenol | 0.2 mol, 22 g | C1(=CC=CC=C1)S | C6H6S
reactant | 2,3-dichloropyrazine | 0.2 mol, 29.8 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | sodium methylate | 0.2 mol, 10.8 g | C[O-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-chloro-3-phenylthiopyrazine | ClC1=NC=CN=C1SC1=CC=CC=C1 | C10H7ClN2S
